US04898977
1-cyclohexyl-3-buten-2-ol
A solution of 60 g (0.47 mol) of cyclohexylacetaldehyde in 400 ml of abs. THF is added dropwise at -20° to a solution of vinylmagnesium bromide in abs. THF, prepared from 13.8 g (0.57 mol) of magnesium and 66.3 g (0.62 mol) of vinyl bromide in 500 ml of abs. THF. When the addition is complete, the whole is stirred for 30 minutes at -20° and then hydrolysed with 900 ml of saturated ammonium chloride solution. After diluting with 250 ml of H2O, the reaction mixture is extracted three times with 1 liter of ether each time, washed three times with 500 ml of brine each time, dried with MgSO4 and then concentrated by evaporation in a rotary evaporator. The residue is distilled at 50°/0.1 mbar.

reactant | cyclohexylacetaldehyde | 0.47 mol, 60 g | C1(CCCCC1)CC=O | C8H14O
reactant | vinylmagnesium bromide | C(=C)[Mg]Br
reactant | magnesium | 0.57 mol, 13.8 g | [Mg] | Mg
reactant | vinyl bromide | 0.62 mol, 66.3 g | C(=C)Br | C2H3Br
reactant | ammonium chloride | 900 ml | [Cl-].[NH4+]
solvent | H2O | 250 ml | O | H2O
solvent | THF | C1CCOC1 | C4H8O
product | 1-cyclohexyl-3-buten-2-ol | C1(CCCCC1)CC(C=C)O | C10H18O
